US07919519B2
To a solution of 5-(difluoro(phenyl)methyl)benzofuran (0.684 g, 2.8 mmol) in 28 mL THF at −78° C. under nitrogen was added butyllithium, 2.5M solution in hexanes (1.3 mL, 3.4 mmol) dropwise. The clear solution was allowed to stir for 30 min, at which point triisopropyl borate (0.97 mL, 4.2 mmol) was added. After 30 min, the bath was removed and the reaction allowed reaching ambient temperature. After 30 min, 28 mL 2N HCl was added, and the reaction was diluted with MTBE. The organic layer was washed with brine and dried with anhyd sodium sulfate, filtered, and concentrated to a ] clear oil. Hexanes was added to give a white solid, which was collected by filtration. A portion of the unpurified material was carried forward as follows: ethyl 1-(4-bromo-3-fluorobenzyl)azetidine-3-carboxylate (0.150 g, 0.474 mmol) and 5-(difluoro(phenyl)methyl)benzofuran-2-ylboronic acid (0.273 g, 0.949 mmol) were reacted according to Scheme B2 and general procedure F to give ethyl 1-((4-(5-(difluoro(phenyl)methyl)benzofuran-2-yl)-3-fluorophenyl)methyl)azetidine-3-carboxylate. 1H NMR (400 MHz, DMSO-d6) δ ppm 7.94 (t, J=8.0 Hz, 1H), 7.89 (s, 1H), 7.76 (d, J=8.5 Hz, 1H), 7.45-7.60 (m, 6H), 7.38 (d, J=3.0 Hz, 1H), 7.26-7.33 (m, 2H), 4.10 (q, J=7.0 Hz, 2H), 3.63 (s, 2H), 3.43-3.51 (m, 2H), 3.20-3.38 (m, 3H), 1.19 (t, J=7.0 Hz, 3H).

reactant | 5-(difluoro(phenyl)methyl)benzofuran | 2.8 mmol, 0.684 g | FC(C=1C=CC2=C(C=CO2)C1)(C1=CC=CC=C1)F | C15H10F2O
reactant | butyllithium | C(CCC)[Li]
reactant | triisopropyl borate | 4.2 mmol, 0.97 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | ethyl 1-(4-bromo-3-fluorobenzyl)azetidine-3-carboxylate | 0.474 mmol, 0.150 g | BrC1=C(C=C(CN2CC(C2)C(=O)OCC)C=C1)F | C13H15BrFNO2
reactant | 5-(difluoro(phenyl)methyl)benzofuran-2-ylboronic acid | 0.949 mmol, 0.273 g | FC(C=1C=CC2=C(C=C(O2)B(O)O)C1)(C1=CC=CC=C1)F | C15H11BF2O3
solvent | THF | 28 mL | C1CCOC1 | C4H8O
product | ethyl 1-((4-(5-(difluoro(phenyl)methyl)benzofuran-2-yl)-3-fluorophenyl)methyl)azetidine-3-carboxylate | FC(C=1C=CC2=C(C=C(O2)C2=C(C=C(C=C2)CN2CC(C2)C(=O)OCC)F)C1)(C1=CC=CC=C1)F | C28H24F3NO3
